US04414225
Ethyl 5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylate hydrochloride
15.4 gm (0.049 mol) of ethyl 6-benzyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]-azepine-2-carboxylate were dissolved in 200 of ethyl alcohol by the addition of 50 ml of 1 N hydrochloric acid. After the addition of 5 gm of palladium oxide, the mixture was hydrogenated in an autoclave for 3 hours at 80° C. and under a hydrogen pressure of 5 bars. After the reaction mixture had been cooled, the catalyst was filtered off, the filtrate was evaporated, and the residue was triturated with acetone. The product was suction-filtered and washed several times with acetone.

reactant | ethyl 6-benzyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]-azepine-2-carboxylate | 0.049 mol, 15.4 gm | C(C1=CC=CC=C1)N1CCC2=C(CC1)C=C(S2)C(=O)OCC | C18H21NO2S
reactant | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | ethyl alcohol | C(C)O | C2H6O
catalyst | palladium oxide | 5 gm | [Pd]=O
product | Ethyl 5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxylate hydrochloride | Cl.S1C(=CC2=C1CCNCC2)C(=O)OCC | InChI=1S/C11H15NO2S.ClH/c1-2-14-11(13)10-7-8-3-5-12-6-4-9(8)15-10;/h7,12H,2-6H2,1H3;1H
